US04098812
Methyl 4-chloro-α-methoxy-5-nitro-o-toluate
A sample of methyl 4-chloro-α-methoxy-o-toluate (10 g.) is added in small portions at 15°-20° to a solution of potassium nitrate (4.9 g.) in concentrated sulfuric acid. When the addition is complete, the mixture is stirred for 1 hour at 10°-15°, then poured onto ice and the precipitated solid (12.8 g.) collected by filtration. A sample of the damp product is recrystallized from 90% ethanol. After recrystallization, the solid mp is 77°-81°.

reactant | methyl 4-chloro-α-methoxy-o-toluate | 10 g | ClC=1C=C(C(=CC1)COC)C(=O)OC | C10H11ClO3
reactant | potassium nitrate | 4.9 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | Methyl 4-chloro-α-methoxy-5-nitro-o-toluate | ClC=1C=C(C(=CC1[N+](=O)[O-])COC)C(=O)OC | C10H10ClNO5
